US08530663B2
4-Hydroxymethyl-3′,4′,5′,6′-tetrahydro-2′H-[3,4]-bipyridinyl-1′-carboxylic Acid t-Butyl Ester
A solution of 3′,4′,5′,6′-tetrahydro-2′H-[3,4′]bipyridinyl-4,1′-dicarboxylic acid 1′-t-butyl ester 4-methyl ester (3.3 g, 8.2 mmol, 1.0 eq.) in THF (50 mL) was added dropwise to a solution of LiAlH4 (590 mg, 15.5 mmol, 1.5 eq.) in THF (50 mL) at 0° C. under nitrogen. The resulting solution was stirred for 10 minutes at 0° C. The reaction was then quenched with water (0.6 mL) and 15% NaOH (1.8 mL). The solids were filtered. The mixture was dried over anhydrous Na2SO4 and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with EtOAc/PE (1:1) to yield the title compound (1.8 g) as a white solid. MS m/z: [M+H]+ calcd for C16H25N2O3, 293. found 293.

reactant | 3′,4′,5′,6′-tetrahydro-2′H-[3,4′]bipyridinyl-4,1′-dicarboxylic acid 1′-t-butyl ester 4-methyl ester | 8.2 mmol, 3.3 g, 1.0 eq. | COC(=O)C1=C(C=NC=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N2O4
reactant | LiAlH4 | 15.5 mmol, 590 mg, 1.5 eq. | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-Hydroxymethyl-3′,4′,5′,6′-tetrahydro-2′H-[3,4]-bipyridinyl-1′-carboxylic Acid t-Butyl Ester | 1.8 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1C=NC=CC1CO | C16H24N2O3
